US05252587
Following the same procedure as in Example 40, 0.3 g (1.85 mmol) of 1, 5-dideoxy-1,5-imino-D-glucitol, 0.65 g (2.6 mmol) of (E)-3-(t-butyldimethylsilyl)-2-propen-1-ol, methanesulfonate and 0.48 ml (3.4 mmol) of triethylamine in 13 ml of dimethylformamide are heated at 80° C. overnight. Solvents are removed under reduced pressure and the residue is flash chromatographed on a silica gel column eluted with dichloromethane-methanol 100:0 to 90:10 to give after methanol-water recristallization 0.15 g (35%) of expected {[(E)-3-(t-butyldimethylsilyl)-2-propenyl]imino}-D-glucitol as white crystals.

reactant | 1, 5-dideoxy-1,5-imino-D-glucitol | 1.85 mmol, 0.3 g | N1C[C@H](O)[C@@H](O)[C@H](O)[C@H]1CO | C6H13NO4
reactant | (E)-3-(t-butyldimethylsilyl)-2-propen-1-ol | 2.6 mmol, 0.65 g | [Si](C)(C)(C(C)(C)C)/C=C/CO | C9H20OSi
reactant | methanesulfonate | CS(=O)(=O)[O-]
reactant | triethylamine | 3.4 mmol, 0.48 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | 13 ml | CN(C=O)C | C3H7NO
product | {[(E)-3-(t-butyldimethylsilyl)-2-propenyl]imino}-D-glucitol | [Si](C)(C)(C(C)(C)C)/C=C/CN=C([C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O | C15H31NO6Si
